US05290934
Employing ethyl 1-ethyl-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.55 g), conc. hydrochloric acid (1.5 ml) and 90 % acetic acid (6 ml), the procedure of Reference Example 10 is repeated to give 1-ethyl-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.40 g), as white crystals, m.p. >300° C.

reactant | ethyl 1-ethyl-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.55 g | C(C)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)OCC | C15H15F2NO3
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.40 g | C(C)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)O | C13H11F2NO3
